US06537948B1
A mixture of 48.3 g of 2-(ethoxycarbonyl)methoxy-3-nitropyridine, 7.8 g of 10% palladium/carbon and 540 ml of ethyl acetate was stirred for 3 hours at room temperature under hydrogen atmosphere. The reaction system was purged with nitrogen, then, the reaction solution was filtrated through Celite, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain 37.1 g of 3-amino-2-(ethoxycarbonyl)methoxypyridine. 1H-NMR(CDCl3/300 MHz) δ(ppm): 1.27 (t, 3H, J=7.1 Hz), 3.8-3.9 (b, 2H), 4.24 (q, 2H, J=7.1 Hz), 4.93 (s, 2H), 6.7-6.8 (m, 1H), 6.8-7.0 (m, 1H), 7.4-7.6(m, 1H)

reactant | 2-(ethoxycarbonyl)methoxy-3-nitropyridine | 48.3 g | C(C)OC(=O)COC1=NC=CC=C1[N+](=O)[O-] | C9H10N2O5
catalyst | palladium/carbon | 7.8 g | [Pd] | Pd
solvent | ethyl acetate | 540 ml | C(C)(=O)OCC | C4H8O2
product | 3-amino-2-(ethoxycarbonyl)methoxypyridine | 37.1 g | NC=1C(=NC=CC1)OCC(=O)OCC | C9H12N2O3
